US09163021B2
2-(4-cyclopropyl-1H-1,2,3-triazol-1-yl)-N-(5-{[7-fluoro-1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide
Prepared according to Method 1 (Example 19) followed by Method Y (Example 1) using (5-Amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone (Preparation 29) and (4-cyclopropyl-1H-1,2,3-triazol-1-yl)acetic acid (Preparation 94).

reactant | (5-Amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H31FN4O2Si
reactant | (4-cyclopropyl-1H-1,2,3-triazol-1-yl)acetic acid | C1(CC1)C=1N=NN(C1)CC(=O)O | C7H9N3O2
product | 2-(4-cyclopropyl-1H-1,2,3-triazol-1-yl)-N-(5-{[7-fluoro-1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide | C1(CC1)C=1N=NN(C1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)(C)C | C24H24FN7O3
